US04755513
6,8-Difluoro-1-(4-hydroxyphenyl)-7-(1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.80 g) is added slowly to a mixture of 90% formic acid (4 ml) and 37% formaline (4 ml) under ice-cooling. After the addition, the mixture is refluxed for 5 hours. The reaction mixture is distilled to dryness under reduced pressure. The residue is suspended in saturated aqueous sodium hydrogen carbonate (15 ml), and the mixture is stirred at room temperature for 30 minutes. The precipitated crystals are separated by filtration, washed with water, dried, and then recrystallized from DMF to give 6,8-difluoro-1-(4-hydroxyphenyl)-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.52 g) as pale yellowish white crystals, m.p. 300° C.

reactant | 6,8-Difluoro-1-(4-hydroxyphenyl)-7-(1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.80 g | FC=1C=C2C(C(=CN(C2=C(C1N1CCNCC1)F)C1=CC=C(C=C1)O)C(=O)O)=O | C20H17F2N3O4
reactant | formaline | 4 ml | C=O | CH2O
solvent | formic acid | 4 ml | C(=O)O | CH2O2
product | 6,8-difluoro-1-(4-hydroxyphenyl)-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.52 g | FC=1C=C2C(C(=CN(C2=C(C1N1CCN(CC1)C)F)C1=CC=C(C=C1)O)C(=O)O)=O | C21H19F2N3O4
